US20010019995A1
a. 1 -(1 -Ethoxyethoxy)-6-bromohexane
To a cooled solution of 80 mg of toluenesulfonic acid in 40 ml of ether was fed 20 g (110 mmol) of 6-bromohexanol and 40 ml of ethyl vinyl ether simultaneously by separate additional funnels. The temperature of the reaction mixture was kept at 7° C. or lower during the feeds, which took 1 hour. The reaction mixture was stirred 20 minutes longer, then roughly 1 ml of triethylamine was added. The reaction mixture was washed with water and brine, dried over potassium carbonate, filtered and stripped to give 25.7 g of a pale yellow liquid, which was used without further purification.

reactant | toluenesulfonic acid | 80 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 6-bromohexanol | 110 mmol, 20 g | BrCCCCCCO | C6H13BrO
reactant | ethyl vinyl ether | 40 ml | C(=C)OCC | C4H8O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 1 -(1 -Ethoxyethoxy)-6-bromohexane | 25.7 g | C(C)OC(C)OCCCCCCBr | C10H21BrO2
